US06306818B1
nona-2,6-dien-1-ol
4-methyl-3-decen-5-ol (UNDECAVERTOL, Givaudan-Roure)*

reactant | 4-methyl-3-decen-5-ol | CC(=CCC)C(CCCCC)O | C11H22O
reactant | UNDECAVERTOL | CCCCCC(/C(=C/CC)/C)O | C11H22O
product | nona-2,6-dien-1-ol | C(C=CCCC=CCC)O | C9H16O
